US04406690
To 5-methoxy-2-pyridylcarboxamide (2 g, 13.2 mmol) in 5 ml of DMF at RT is added the sodium salt of ethanethiol (26.3 mmol) in DMF (61.5 ml). The slurry is heated to 110° with stirring for about 15 minutes. The reaction is cooled to 50° and 40 ml of DMF is added. After 0.5 hour, the reaction is cooled to 10° and 4-chlorobenzyl chloride (2.47 g, 15.4 mmol) is added. The reaction is allowed to warm to RT and is stirred for 3 days. About 0.5 ml of 4-chlorobenzyl chloride/DMF (0.21 g/l ml) is added. After 2 hours at RT, the reaction is poured into ice water and ethyl acetate. The ethyl acetate is extracted off, and the water layer is extracted with ethyl acetate (4×). The combined organic layers are washed with water and with brine, dried, filtered and rotoevaporated. The residue is washed with 20% ether/hexane (4× ). The liquid is pipetted off and the residue is rotoevaporated to give 5-(4-chlorobenzyloxy)-2-pyridylcarboxamide.

reactant | 5-methoxy-2-pyridylcarboxamide | 13.2 mmol, 2 g | COC=1C=CC(=NC1)C(=O)N | C7H8N2O2
reactant | sodium | [Na] | Na
reactant | ethanethiol | 26.3 mmol | C(C)S | C2H6S
reactant | 4-chlorobenzyl chloride | 15.4 mmol, 2.47 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | 4-chlorobenzyl chloride DMF | 0.5 ml | ClC1=CC=C(CCl)C=C1.CN(C)C=O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 61.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-chlorobenzyloxy)-2-pyridylcarboxamide | ClC1=CC=C(COC=2C=CC(=NC2)C(=O)N)C=C1 | C13H11ClN2O2
